US07166648B2
60 g of 2,4-pentandione and 0.1 g of triethyl amine were mixed, and 28 g of 2-butanone was added dropwise at room temperature. The mixture was stirred for 42 hours and the raw product was distilled off. Re-distillation gave 31.4 g of 3-acetyl-2,6-heptandione.

reactant | 2,4-pentandione | 60 g | CC(CC(C)=O)=O | C5H8O2
catalyst | triethyl amine | 0.1 g | C(C)N(CC)CC | C6H15N
solvent | 2-butanone | 28 g | CC(CC)=O | C4H8O
product | 3-acetyl-2,6-heptandione | 31.4 g | C(C)(=O)C(C(C)=O)CCC(C)=O | C9H14O3
